US05532249
EXAMPLE 28 9-(4-Pyridinylmethyl)-9H-fluoren-9-acetamide Hemihydrate
By substituting 9-(4-pyridinylmethyl)-9H-fluorene and α-bromoacetamide in Ex. 1, the desired product was isolated in 45% yield; mp 156°-158° C.

reactant | 9-(4-pyridinylmethyl)-9H-fluorene | N1=CC=C(C=C1)CC1C2=CC=CC=C2C=2C=CC=CC12 | C19H15N
reactant | α-bromoacetamide | BrCC(=O)N | C2H4BrNO
product | 9-(4-Pyridinylmethyl)-9H-fluoren-9-acetamide Hemihydrate | 45% yield | O.N1=CC=C(C=C1)CC1(C2=CC=CC=C2C=2C=CC=CC12)CC(=O)N.N1=CC=C(C=C1)CC1(C2=CC=CC=C2C=2C=CC=CC12)CC(=O)N | InChI=1S/2C21H18N2O.H2O/c2*22-20(24)14-21(13-15-9-11-23-12-10-15)18-7-3-1-5-16(18)17-6-2-4-8-19(17)21;/h2*1-12H,13-14H2,(H2,22,24);1H2
